US04731493
After the reaction solution was cooled, separated potassium bromide was removed by filtration, methanol was distilled, washed 3 times with water, and the benzene solution was concentrated and dropwise added into cold acetone (0°~-10° C.), to obtain reprecipitate of 140 g of condensed bromoacenaphthylene. Elemental analysis showed that the composition of the condensate corresponded to (C12H4.4 Br2.7)m and the yield from acenaphthene was 76.8%.

reactant | bromoacenaphthylene | BrC1=CC2=CC=CC3=CC=CC1=C23 | C12H7Br
reactant | Br2 | BrBr | Br2
product | acenaphthene | C1CC2=CC=CC3=CC=CC1=C23 | C12H10
